US09145411B2
Step 4: N-(3-(2-(2-Aminopyrimidin-5-yl)-4-morpholinoquinazolin-7-yl)phenyl)-2-hydroxy-2-methylpropanamide
In a 25 mL round bottom flask, tert-butyl (5-(7-(3-(2-hydroxy-2-methylpropanamido)phenyl)-4-morpholinoquinazolin-2-yl)pyrimidin-2-yl)carbamate (0.06 g, 0.0001 mol) and DCM (10 mL) were added. To the flask was added trifluoroacetic acid (0.5 mL) and the reaction stirred at room temperature for 5 hours. The volatiles were evaporated under reduced pressure to provide the residue. The residue was dissolved in 5% methanol in DCM and washed with saturated sodium bicarbonate. The organic layer was washed with water, brine, dried over sodium sulfate and evaporated under reduced pressure to provide the crude product. The crude product was purified by preparative HPLC (10 mM NH4OAc and 1:1 MeOH:ACN) to obtain the title compound (0.007 mg, 14%). 1H NMR (DMSO-d6, 400 MHz): δ 9.76 (s, 1H), 9.22 (s, 2H), 8.32 (s, 1H), 8.11 (d, J=8.8 Hz, 1H), 8.05 (s, 1H), 7.87 (d, J=8.0 Hz, 1H), 7.77 (d, J=7.6 Hz, 1H), 7.56 (d, J=7.6 Hz, 1H), 7.48 (t, J=8.8 Hz, 1H), 7.16 (s, 2H), 3.85 (s, 8H), 1.39 (s, 6H): LC-MS (ESI): Calculated mass. 485.2, Observed mass [M+H]+: 486.2. (RT=0.11 min).

reactant | tert-butyl (5-(7-(3-(2-hydroxy-2-methylpropanamido)phenyl)-4-morpholinoquinazolin-2-yl)pyrimidin-2-yl)carbamate | 0.0001 mol, 0.06 g | OC(C(=O)NC=1C=C(C=CC1)C1=CC=C2C(=NC(=NC2=C1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O)N1CCOCC1)(C)C | C31H35N7O5
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(2-(2-Aminopyrimidin-5-yl)-4-morpholinoquinazolin-7-yl)phenyl)-2-hydroxy-2-methylpropanamide | 0.007 mg, 14% | NC1=NC=C(C=N1)C1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C=1C=C(C=CC1)NC(C(C)(C)O)=O | C26H27N7O3
